US07943609B2
(11S)-3-(Benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (770 mg, 2.05 mmol) was dissolved in 200 mL of ethanol and the solution was placed in a pressure bottle. Palladium on carbon (10%, 430 mg) was then added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa) for 3 days. The reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with 1:1 CH2Cl2/ethanol and the combined filtrates were concentrated under reduced pressure to give an off-white solid. Chromatography (SiO2, 30-50% CMA/CHCl3) gave an off-white solid. Recrystallization from acetonitrile and methanol gave (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol (110 mg) as a white powder. mp>250° C.; 1H NMR (500 MHz, DMSO-d6) δ 9.49 (br s, 1H), 7.81 (d, J=8.9 Hz, 1H), 6.97 (d, J=2.5 Hz, 1H), 6.80 (dd, J=8.9, 2.5 Hz, 1H), 6.42 (s, 2H), 5.05 (d, J=15.4 Hz, 1H), 5.00 (m, 1H), 4.91 (d, J=15.4 Hz, 1H), 4.10 (m, 2H), 1.52 (d, J=6.5 Hz, 3H); 13C NMR (125 MHz, DMSO-d6) δ 156.7, 152.3, 147.0, 144.2, 132.2, 125.0, 121.6, 112.4, 110.1, 108.2, 68.8, 65.1, 50.3, 19.2; MS (ESI) m/z 271 (M+H)+. Anal. calcd for C14H14N4O2: C, 62.21; H, 5.22; N, 20.73. Found: C, 61.99; H, 5.05; N, 20.62.

reactant | (11S)-3-(Benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 2.05 mmol, 770 mg | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3[C@H](COC1)C | C21H20N4O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 430 mg | [Pd] | Pd
product | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol | 110 mg | NC1=NC2=CC(=CC=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
